US04335142
PREPARATION OF 2-CHLORO-1-(PHENYLSULFONYL)ETHYL p-BROMOPHENYL SULFIDE
A solution of 24.8 g (0.147 mole) of phenyl vinyl sulfone in 50 ml of carbon tetrachloride and 25 ml of glacial acetic acid at 28° was treated with 32.8 g (0.146 mole) of p-bromobenzenesulfenyl chloride. A 4° exotherm occurred. The reaction mixture was allowed to stand for 72 hours. The solvent was removed by evaporation at reduced pressure. The residue was recrystallized from 50 ml of benzene to give colorless needles, m.p. 97.5°-98.5°.

reactant | phenyl vinyl sulfone | 0.147 mole, 24.8 g | C(=C)S(=O)(=O)C1=CC=CC=C1 | C8H8O2S
reactant | p-bromobenzenesulfenyl chloride | 0.146 mole, 32.8 g | BrC1=CC=C(C=C1)SCl | C6H4BrClS
reactant | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
product | 2-CHLORO-1-(PHENYLSULFONYL)ETHYL p-BROMOPHENYL SULFIDE | BrC1=CC=C(C=C1)SC(CCl)S(=O)(=O)C1=CC=CC=C1 | C14H12BrClO2S2
